US04766128
One millimole of 3-(1-acetyl-2,3β-dihydro-6-methyl-12-nitro-8α-ergolinyl)-1,1-diethylurea is heated in a mixture of 2 ml of anhydrous hydrazine and 2 ml of chloroform for 3 hours to 50° C., poured into water, extracted with methylene chloride, the organic phase is dried, and evaporated under vacuum, yielding 230 mg of 3-(2,3-dihydro-6-methyl-12-nitro-8α-ergolinyl)-1,1-diethylurea. Yield: 25%. [α]D =+538° (0.5% in methanol) as the tartaric acid salt.

reactant | 3-(1-acetyl-2,3β-dihydro-6-methyl-12-nitro-8α-ergolinyl)-1,1-diethylurea | One millimole | C(C)(=O)N1C[C@H]2C[C@H]3N(C[C@H](C[C@@H]3C=3C(=CC=C1C32)[N+](=O)[O-])NC(N(CC)CC)=O)C | C22H31N5O4
reactant | water | O | H2O
solvent | hydrazine | 2 ml | NN | H4N2
solvent | chloroform | 2 ml | C(Cl)(Cl)Cl | CHCl3
product | 3-(2,3-dihydro-6-methyl-12-nitro-8α-ergolinyl)-1,1-diethylurea | 230 mg, Yield: 25% | CN1C[C@H](C[C@@H]2C=3C(=CC=C4NCC(C[C@@H]12)C34)[N+](=O)[O-])NC(N(CC)CC)=O | C20H29N5O3
